Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],1.92013492158
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[O:7],0.84757969185
[H:1][C:2][C:3]1=[C:4]([H:5])[C@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[C:8]([H:9])([H:10])[H:11].[H:1][C:2]=[C:3]1[C:4]([H:5])=[C:6]([H:7])[C:12]1([H:13])[H:14],1.44033478012
[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-4.421618409090001
[C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.5141722184699993
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11].[H:1][C:2]=[O:3],1.7584936657900003
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12]>>[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2][O:3][C:4]([H:5])[H:6],3.80623441348
[C:2][C:3]#[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1]>>[H:1][C:2]=[C:3]=[C:4][C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.7282265566199992
[H:1][C:2]#[C:3][C:4]([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],3.2121921388700003
[C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][H:8],-3.4523120924
[H:10].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.23993292597
[O:1][C:2]([H:3])([H:4])[C:5][O:6][H:7]>>[C:5][O:6][H:7].[O:1]=[C:2]([H:3])[H:4],0.0711541700002
[O:1][C:2](=[O:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2](=[O:3])=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1],4.43881408477
[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][H:6]>>[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],0.494275451071
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.0880475616800025
[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.9182009151
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[H:12],-3.03999860073
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[O:7])[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1=[C:9]([H:10])[H:11],-0.0644438273484
[H:12].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.35341088018
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[H:9]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[H:9],-1.92688542739
[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],5.96764171702
[C:1]#[C:2][C@@:3]([H:4])([O:5][H:6])[C:7](=[O:8])[H:9]>>[C:1]#[C:2].[C:3]([H:4])([O:5][H:6])[C:7](=[O:8])[H:9],4.14722692768
[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1]=[C:2]([H:3])[C:9]([H:10])([H:11])[H:12]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.03100294096
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3],0.215525219479
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:7]([H:8])([H:9])[H:10].[H:6],4.87580175976
[C:1]([C:4][C:7]#[C:8])([H:6])[H:9].[C:2]#[C:3][H:5]>>[C:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8])[H:9],-1.19647429872
[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-4.2572165633
[H:1][C:2][O:3][H:4]>>[H:1][C:2].[O:3][H:4],7.811990526980001
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.41048551183
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2][H:3],8.2843362
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]([H:7])=[C:8]/[O:10][H:11].[H:9],4.82204537614
